US05114615
(1) Synthesis of 4-Decyloxy-1,1'-biphenyl
4-Hydroxy-1,1'-biphenyl (61.3 g, 0.36 mol) and decyl bromide (218 g, 0.72 mol) were heated at 80° C. To this solution, a 50% potassium hydroxide aqueous solution (57 g) was added dropwise at 80° C. and then stirring was continued for 6 h at the same temperature. After cooling, the mixture was diluted with ethyl acetate, the organic layer was separated, washed with H2O and dried over MgSO4. The solvent was removed under reduced pressure and the resultant residue was recrystallized from a mixed solvent of n-hexane and ethyl acetate to give the title compound as a white crystals; yield: 70 g (62.6%); mp 70.0°-73.0° C.

reactant | 4-Hydroxy-1,1'-biphenyl | 0.36 mol, 61.3 g | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | decyl bromide | 0.72 mol, 218 g | C(CCCCCCCCC)Br | C10H21Br
reactant | potassium hydroxide | 57 g | [OH-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Decyloxy-1,1'-biphenyl | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CC=CC=C1 | C22H30O
